US07919621B2
Step 1: Dicyclopropyl-(3-mercapto-phenyl)-methanol (10i)
3-Bromobenzenethiol (2.0 g, 10.6 mmol) was dissolved in THF (20 mL) and cooled to −5° C. under N2. Sodium hydride (60 wt %, 477 mg, 11.6 mmol) was added portionwise, and the reaction was then cooled to −78° C. n-Butyllithium (2.5M, 4.7 mL, 11.6 mmol) was added over 20 minutes, followed by dicyclopropylmethanone (1.2 mL, 10.6 mmol), and the reaction was slowly warmed to room temperature over 3 hours. The reaction was acidified with 1N aqueous HCl to pH 2, and the reaction mixture was extracted with EtOAc three times. The combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography (0-80% EtOAc in hexanes) to give the desired product, 10i.

reactant | 3-Bromobenzenethiol | 10.6 mmol, 2.0 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | Sodium hydride | 11.6 mmol, 477 mg | [H-].[Na+]
reactant | n-Butyllithium | 11.6 mmol, 2.5M, 4.7 mL | C(CCC)[Li]
reactant | dicyclopropylmethanone | 10.6 mmol, 1.2 mL | C1(CC1)C(=O)C1CC1 | C7H10O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Dicyclopropyl-(3-mercapto-phenyl)-methanol | C1(CC1)C(O)(C1=CC(=CC=C1)S)C1CC1 | C13H16OS
